US07109340B2
The ethyl ester of ethyl 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxylate is converted to carboxamide by amidation using a solution of aqueous ammonia, and results in the obtaining of 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide.

reactant | ethyl 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxylate | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)OCC | C19H25N5O4
reactant | ammonia | N | H3N
product | 6-(5-tert-butoxycarbonylaminopyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine-3-carboxamide | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)N1CC=2C(CC1)=C(NN2)C(=O)N | C17H22N6O3
